Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / Tizanidine
 
Attending: ___.
 
Chief Complaint:
diarrhea, abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ hx endometriosis, IBS, HTN, perforated appendicitis 
currently
being treated for her first cdiff recurrence w/vancomycin taper
presenting with nausea, diarrhea, and abdominal pain that 
started
on 5 days prior while patient vacationing in ___. States
prior to this patient's cdiff symptoms of n/v/d were improving,
and no longer had diarrhea but then had exacerbation of fever,
nausea, diarrhea, aches/pains. Pt states feels like previous
cdiff episode.

She traveled to ___ last week, felt great for several days. 
Then about 4 days ago she again had some abdominal discomfort,
some slightly loose stools. She arrived home on ___. Then
yesterday had a fever of 102.7 felt chilled and sweats. She also
has some diarrhea.  No blood in the stool.  She had some period
of times times where she did not have a stool than will have
several times in an hour.  

While in ___, she stayed in a ___.  The only time
she left the resort was to go to the restaurant called
___.  Did not eat or drink any food or water or ice
from anywhere outside of the ___ or ___.  Traveled
with her husband, he is not experiencing any infectious or other
symptoms.

On ROS, she denies headache, neck pain, rhinorrhea, sore throat,
chest pain, palpitations, shortness of breath, cough, dysuria,
lightheadedness, lower extremity edema. 

Regarding her recent hospitalizations, she initially was 
admitted
___ with a perforated, gangrenous appendix w removal
c/b peritonitis and abscesses requiring drains. Then she was
readmitted ___ with abdominal pain, mild diarrhea
found to have C. difficile. 

She presented to PCP ___ ___ with acute abdominal pain and
slight diarrhea, no temp and was found to be C. difficile
positive again. It was decided to treat her with pulse 
vancomycin
therapy and taper. She was doing well on that; had taken to 4
times a day for couple weeks and was on the beginning the week 
of
2 times a day. 

In the ED, initial vitals: T 99.0 HR 97 BP 132/80 RR 18 95% RA  

 - Exam notable for:  
General: Well appearing, no acute distress
Cardiac: Tachycardia
Pulmonary: Clear to auscultation bilaterally, no 
crackles/wheezes
Abdominal/GI: Normal bowel sounds, diffuse discomfort to
palpation w/notable tenderness LLQ.
Renal: No CVA tenderness
Rectal: Deferred

 - Labs notable for:  
    - CBC w WBC 12.3 (PMNs 83%), hgb/hct/platelets wnl
    - CHEM w K 3.4, otherwise wnl 
    - LFTs all wnl including lipase 
    - UA w trace blood, otherwise unremarkable. UCG negative. 
    - Lactate 1.6 --> 1.0 
    - Flu negative
    - Extensive stool studies sent 
    - BCx, UCx sent 

 - Imaging notable for:  
CTABP PRELIM READ 1. Mild, circumferential wall thickening of 
the
descending and sigmoid colons, with mild mucosal hyperemia and
trace adjacent fat stranding, which could reflect colitis. 2.
Small volume pelvic free fluid.

 - Pt given: 
2L of LR 
acetaminophen 1000 mg x2
potassium cl 40 mEq PO
Zofran 4mg IV
vanco oral 125mg (at 2034)
citalopram 20mg  

 - Vitals prior to transfer: Tmax 101.8, Tc 99.2 HR 76 BP 103/60
RR 16 99% RA  

Upon arrival to the floor, the patient gives the history above.

REVIEW OF SYSTEMS: Per HPI, otherwise negative
 
Past Medical History:
PMH: HTN, hypothyroidism, endometriosis, migraine, 
endometriosis.

PSH: laparoscopic appendectomy ___ (___), 
hysteroscopy/polypectomy/myomectomy/D&C, insertion of mirena IUD
laparoscopic left ovarian cystectomy and cystoscopy 

 -tobacco: denies 
 -EtOH: social  
 -occupation: ___
 -living situation: Lives w husband. 
 
Social History:
___
Family History:
The patient reports that her father passed away in ___ from ___ 
body dementia.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: Reviewed in POE
GENERAL: well developed, well nourished in NAD, appears tired
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB on room
air
ABDOMEN: soft, diffusely TTP w guarding, +hyperactive bowel
sounds, no rebound
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
SKIN: warm, dry, no rashes or notable lesions
NEURO: AOx3, face symmetric, moving all extremities 

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM
VITALS: 24 HR Data (last updated ___ @ 804)
    Temp: 98.4 (Tm 98.9), BP: 112/75 (91-115/57-75), HR: 68
(68-71), RR: 20 (___), O2 sat: 96% (95-96), O2 delivery: Ra,
Wt: 200 lb/90.72 kg  
GENERAL: well developed, well nourished in NAD
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB on room
air
ABDOMEN: soft, diffusely TTP worse in LLQ, +hyperactive bowel
sounds, no rebound
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
SKIN: warm, dry, no rashes or notable lesions
NEURO: AOx3, face symmetric, moving all extremities 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:20PM BLOOD WBC-14.3* RBC-4.22 Hgb-12.1 Hct-37.2 
MCV-88 MCH-28.7 MCHC-32.5 RDW-13.0 RDWSD-41.3 Plt ___
___ 03:20PM BLOOD Neuts-84.7* Lymphs-9.9* Monos-4.6* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-12.09* AbsLymp-1.41 
AbsMono-0.66 AbsEos-0.01* AbsBaso-0.03
___ 09:26AM BLOOD ___ PTT-27.0 ___
___ 03:20PM BLOOD Glucose-104* UreaN-13 Creat-0.9 Na-138 
K-3.4* Cl-98 HCO3-26 AnGap-14
___ 03:20PM BLOOD ALT-24 AST-22 AlkPhos-85 TotBili-0.6
___ 03:20PM BLOOD Albumin-4.9 Calcium-9.7 Phos-4.0 Mg-2.0

DISCHARGE LABS:
==============

___ 09:26AM BLOOD WBC-7.2 RBC-3.87* Hgb-11.0* Hct-35.0 
MCV-90 MCH-28.4 MCHC-31.4* RDW-12.9 RDWSD-42.1 Plt ___
___ 09:26AM BLOOD Glucose-136* UreaN-10 Creat-0.7 Na-142 
K-3.9 Cl-101 HCO3-29 AnGap-12
___ 09:26AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.2

MICRO:
================

___ 4:30 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

Norovirus genotype I and II negative

Flu A and Flu B PCR negative

RELEVANT IMAGING:
================
___ CT abdomen and pelvis w/ contrast
  
IMPRESSION: 
  
1. Mild, circumferential wall thickening of the descending and 
sigmoid colons, with mild mucosal hyperemia and trace adjacent 
fat stranding, which could reflect colitis. 
2. Small volume pelvic free fluid. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN 
___ is a ___ female with hx endometriosis, 
IBS, HTN, recent perforated appendicitis currently being treated 
for her first cdiff recurrence w/vancomycin taper presenting 
with nausea, diarrhea, and abdominal pain that started on 5 days 
prior while patient vacationing in ___. States prior to this 
patient's cdiff symptoms of n/v/d were improving, and no longer 
had diarrhea but then had exacerbation of fever, nausea, 
diarrhea, aches/pains.

# Fevers, leukocytosis:
# Diarrhea:
# Recent first recurrence of cdiff on vanc taper:
Patient developed diarrhea while on vacation in ___. She has 
been febrile and has persistent sigmoid colitis on imaging. 
Cdiff PCR negative, which is a highly sensitive test, and 
suggestive that current presentation is NOT due to c diff, thus 
will continue her on her current taper as previously planned. 
Likely infectious travelers diarrhea. Noro negative. Further 
stool studies including bacterial and viral cultures pending on 
discharge. Will have close PCP follow up. 

CHRONIC ISSUES
# HTN - hold home meds given diarrhea and normotensive, will 
hold until she sees her outpatient PCP 
# ___ - cont home levothyroxine
# Depression - cont home citalopram
# GERD - cont home ranitidine

TRANSITIONAL ISSUES:
====================
[] restart home antihypertensives if hypertensive in clinic 
(normotensive during admission) 
[] ___ stool study results
[] continue vancomycin taper as scheduled (started ___ 
___ mg orally four times daily for 10, then 
___ mg orally twice daily for 7 days, then 
___ mg orally once daily for 7 days, then 
___ mg orally every 2 days for 2 weeks

Code: Full
Name of health care proxy: ___ 
Relationship: husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Chlorthalidone 25 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO 4X/WEEK (___) 
4. Levothyroxine Sodium 100 mcg PO 3X/WEEK (___) 
5. Lisinopril 30 mg PO DAILY 
6. Senna 8.6 mg PO BID:PRN Constipation - First Line 
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
8. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
9. Ranitidine 150 mg PO DAILY 
10. Vancomycin Oral Liquid ___ mg PO BID 
11. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
3.  Cetirizine 10 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO 4X/WEEK (___)  
6.  Levothyroxine Sodium 100 mcg PO 3X/WEEK (___)  
7.  Ranitidine 150 mg PO DAILY  
8.  Vancomycin Oral Liquid ___ mg PO BID  
9. HELD- Chlorthalidone 25 mg PO DAILY  This medication was 
held. Do not restart Chlorthalidone until directed by your PCP
10. HELD- Lisinopril 30 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until directed by your PCP
11. HELD- Senna 8.6 mg PO BID:PRN Constipation - First Line  
This medication was held. Do not restart Senna until no longer 
having diarrhea

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Gastritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had had abdominal 
pain and diarrhea. 

We suspect that this is travelers diarrhea from your trip to 
___. You should recover on your own. Continue taking your 
medications such as your vancomycin as you have been already. 
You do not need further medications.

If you are unable to take in food by mouth or if the pain in 
your abdomen gets worse please return to the doctor/emergency 
room.

It was a pleasure taking care of you!
Your ___ care team 
 
Followup Instructions:
___